US04816452
d. Ethyl 2-(2-tritylaminothiazol-4-yl)-(Z)-2-(cis-4-chlorocyclohexyloxyimino)acetate
Ethyl 2-(2-tritylaminothiazol-4-yl)-(Z)-2-(hydroxyimino)acetate (0.91 g), triphenylphosphine (0.58 g) and trans-4-chlorocyclohexanol (0.54 g) were dissolved together in anhydrous benzene (20 ml). Diethyl azodicarboxylate (0 35 ml) was added and the solution heated at reflux for 16 h with exclusion of moisture. Evaporation of solvent followed by chromatography afforded the title compound as a near colourless gum (225 mg, 20%); νmax (KBr) 1737, 1595 (w), 1529, 1491 and 1446 cm-1 ; δHH (CDCl3) 1.39 (3H, t, J 7 Hz), 1.69, 1.96 and 2.06 (8H, 3m), 4.04 (1H, qt, J 6 Hz), 4.39(2H, q, J 7Hz), 4.44 (1H, qt, J 3 Hz), 6.49 (1H, s), 6.97 (1H, brs, D2O exch), and 7.32 (15H, s). [Mass spectrum: +ve ion (thioglycerol) MH+ (574), MNa+ (596)].

reactant | Ethyl 2-(2-tritylaminothiazol-4-yl)-(Z)-2-(hydroxyimino)acetate | 0.91 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)OCC)=N/O | C26H23N3O3S
reactant | triphenylphosphine | 0.58 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | trans-4-chlorocyclohexanol | 0.54 g | Cl[C@@H]1CC[C@H](CC1)O | C6H11ClO
reactant | Diethyl azodicarboxylate | 35 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | Ethyl 2-(2-tritylaminothiazol-4-yl)-(Z)-2-(cis-4-chlorocyclohexyloxyimino)acetate | 225 mg, 20% | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)OCC)=N/O[C@@H]1CC[C@@H](CC1)Cl | C32H32ClN3O3S
